### PR TITLE
[Merged by Bors] - feat: in a countable measurable space, every measure is s-finite

### PR DESCRIPTION
**Pull request by RemyDegenne**
Also add API lemmas about `measurableAtom`.

The instance is placed in the `WithDensity` file, because that's where we have the instance `SFinite (c • μ)` that I use in the proof.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by EtienneC30** [comment]
maintainer merge

File: Mathlib/MeasureTheory/Measure/WithDensity.lean [hunk 1]
```diff
@@ -642,6 +642,10 @@ theorem sFinite_of_absolutelyContinuous {ν : Measure α} [SFinite ν] (hμν :
     restrict_compl_sigmaFiniteSetWRT hμν]
   infer_instance
 
+instance [Countable α] [MeasurableSingletonClass α] : SFinite μ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/WithDensity.lean]: You shouldn't need `MeasurableSingletonClass` here: otherwise, there are countably many atoms, and you could argue similarly along each atom.

File: Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean [hunk 2]
```diff
@@ -322,6 +322,35 @@ lemma MeasurableSet.measurableAtom_of_countable [Countable β] (x : β) :
...
+lemma measurableAtom_eq_of_mem {x y : β} (hx : x ∈ measurableAtom y) :
+    measurableAtom x = measurableAtom y := by
+refine subset_antisymm (measurableAtom_subset_of_mem hx) ?_
+by_cases hy : y ∈ measurableAtom x
+· exact measurableAtom_subset_of_mem hy
+exfalso
+simp only [measurableAtom, mem_iInter, not_forall] at hx hy ⊢
+obtain ⟨s, hxs, hs, hys⟩ := hy
+specialize hx sᶜ hys hs.compl
+exact hx hxs
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean]: indentation?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
